US04284559
10-hydroxy-14-methoxy-2-methyl-1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine;
10-hydroxy-1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine, (cis configuration), Rf in ethanol:acetone (9:1)=0.43 on SiO2, m.p. 217° C.

reactant | 10-hydroxy-1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine | OC1C2=C(C3N(C4=C1C=CC=C4)CCNC3)C=CC=C2 | C17H18N2O
reactant | ethanol acetone | C(C)O.CC(=O)C
product | 10-hydroxy-14-methoxy-2-methyl-1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine | OC1C2=C(C3N(C4=C1C=CC=C4)CCN(C3)C)C(=CC=C2)OC | C19H22N2O2
